US08278328B2
2-(Trimethylsilyloxy)buta-1,3-diene (40 g, 281 mmol) was weighed into a Teflon™ microwave container. Isobutyl methacrylate (50.8 mL, 317 mmol) was added followed by 4,4′-methylenebis(2,6-di-tert-butylphenol) (0.5 g, 1.177 mmol), finally 1-butyl-3-methylimidazolium hexafluorophosphate (0.5 mL) was added, the vessel transferred to the Advancer microwave and heated for 4 hr (normal absorption, no fixed hold time, 190° C.). After 1 hr 20 min an error message was seen for the temperature probe, the error was cleared and heating was continued for a further hour. At this time the software had frozen forcing a shutdown at the mains. The reaction mixture was allowed to cool to RT. Tetrahydrofuran (THF) (200 mL) was added and the solution transferred to a round bottomed flask. 2M HCl was added and the reaction mixture left to stir overnight. DCM was added to the reaction mixture, whereupon an emulsion formed. An attempt to filter this was unsuccessful, and the mixture was left to stand overnight. The organic layer was separated, dried (Na2SO4) and evaporated to give a sticky oil. Flash column chromatography, eluting with ethyl acetate/isohexane gave 2-methylpropyl 1-methyl-4-oxocyclohexanecarboxylate as a yellow oil (12.74 g, 60.0 mmol, 21.35% yield).

reactant | 2-(Trimethylsilyloxy)buta-1,3-diene | 281 mmol, 40 g | C[Si](OC(=C)C=C)(C)C | C7H14OSi
reactant | Isobutyl methacrylate | 317 mmol, 50.8 mL | C(C(=C)C)(=O)OCC(C)C | C8H14O2
reactant | 1-butyl-3-methylimidazolium hexafluorophosphate | 0.5 mL | F[P-](F)(F)(F)(F)F.C(CCC)[N+]1=CN(C=C1)C
catalyst | 4,4′-methylenebis(2,6-di-tert-butylphenol) | 1.177 mmol, 0.5 g | C(C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C29H44O2
product | 2-methylpropyl 1-methyl-4-oxocyclohexanecarboxylate | 60.0 mmol, 12.74 g, 21.35% yield | CC1(CCC(CC1)=O)C(=O)OCC(C)C | C12H20O3
